US08183246B2
5-(4-Methoxyphenyl)-6-phenyl-4-{3-[2-(1H-tetrazol-5-yl)ethoxy]propoxy}furo[2,3-d]pyrimidine
Stir 200 mg (0.47 mmol) 4-[3-(2-cyanoethoxy)propoxy]-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]-pyrimidine, 804 mg (7.0 mmol) trimethylsilylazide and 174 mg (0.70 mmol) di-n-butyltin oxide in 10 ml toluene overnight at 80° C. Concentrate the mixture by evaporation, take up the residue in water and acidify with dilute hydrochloric acid. Next, extract with methylene chloride. Wash the organic extracts with sodium chloride solution, dry over magnesium sulphate and concentrate by evaporation. Purify the residue that remains by RP-HPLC (column: Gromsil 250 mm×30 mm, 10 μm; acetonitrile/water gradient: 0-3 min 5% acetonitrile, 3-50 min 5%→98% acetonitrile, 50-55 min 98% acetonitrile). To remove organotin compounds, dissolve the beige foam obtained in 10 ml toluene and add 1 ml ethylene glycol. After heating for 1 h under reflux, remove the solvent under vacuum. Dissolve the residue in methylene chloride, wash with dilute hydrochloric acid and with sodium chloride solution, dry, and concentrate by evaporation. Purification of the residue by RP-HPLC (column: Gromsil 250 mm×30 mm, 10 μm; acetonitrile/water gradient: 0-3 min 5% acetonitrile, 3-34 min 5%→98% acetonitrile, 34-38 min 98% acetonitrile) gives 46 mg (21% of theor.) of the title compound as a beige foam.

reactant | 4-[3-(2-cyanoethoxy)propoxy]-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]-pyrimidine | 0.47 mmol, 200 mg | C(#N)CCOCCCOC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C25H23N3O4
reactant | trimethylsilylazide | 7.0 mmol, 804 mg | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 0.70 mmol, 174 mg | C(CCC)[Sn](CCCC)=O
reactant | ethylene glycol | 1 ml | C(CO)O | C2H6O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Methoxyphenyl)-6-phenyl-4-{3-[2-(1H-tetrazol-5-yl)ethoxy]propoxy}furo[2,3-d]pyrimidine | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OCCCOCCC2=NN=NN2)C2=CC=CC=C2 | C25H24N6O4
